US07179912B2
B: 4-Methoxy-6-morpholin-4-yl-benzene1,3-dicarbaldehyde
DMF (10 mL) was treated dropwise with phosphorus oxychloride (1.3 g, 14 mmol). The reaction was kept at 25° C. bycooling on ice. The reaction mixture was treated with 4-(3-methoxyphenyl)-morpholine (2.5 g, 13 mmol) in small portions, stirred for 30 min at room temperature, then stirred at 100° C. for 4 h. After cooling, the mixture was poured into aqueous sodium acetate (1 M, 40 mL) and 25 mL of water was added. The resulting precipitate was collected by filtration, washed with water (10 mL), air dried, and purified by flash chromatography (silica gel, 4×15 cm, eluted with 80/20 CHCl3/ether) to yield A and B as white solids: A: (1.0 g, 35%), B: (0.3 g, 9%).

reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 14 mmol, 1.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-(3-methoxyphenyl)-morpholine | 13 mmol, 2.5 g | COC=1C=C(C=CC1)N1CCOCC1 | C11H15NO2
reactant | sodium acetate | 1 M, 40 mL | C(C)(=O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
product | 4-Methoxy-6-morpholin-4-yl-benzene1,3-dicarbaldehyde | COC1=C(C=C(C(=C1)N1CCOCC1)C=O)C=O | C13H15NO4
